US04816452
b. 2-(2-Aminothiazol-4-yl)-(Z)-2-[1-methyl-1-(4-nitrobenzyloxycarbonyl)ethoxyimino]acetic acid
Diphenylmethyl (Z)-2-[1-methyl-1-(4-nitrobenzyloxy-carbonyl)ethoxyimino]-2-(2-tritylaminothiazol-4-yl)-acetate (1.0 g) was treated with formic acid under the conditions described in Example 23d. The title compound was obtained as a white solid (0.355 g, 75%); νmax (Nujol) 3300 (br), 3100 (br), 1740, 1625 (br). 1610, 1520, and 1350 cm-1 ; δH ((CD3)2SO) 1.50 (6H, s), 5.30 (2H, s), 6.74 (1H, s), 7.15-7.40 (3H, m), and 7.59 and 8.08 (4H, ABq, J 9 Hz).

reactant | Diphenylmethyl (Z)-2-[1-methyl-1-(4-nitrobenzyloxy-carbonyl)ethoxyimino]-2-(2-tritylaminothiazol-4-yl)-acetate | 1.0 g | CC(C)(O\N=C(/C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C48H40N4O7S
solvent | formic acid | C(=O)O | CH2O2
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-[1-methyl-1-(4-nitrobenzyloxycarbonyl)ethoxyimino]acetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C16H16N4O7S
